US04820834
3(RS)-(2(S)-tert-Butoxycarbonylamino-3-phenylpropanoyl-amino)-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one
3-(RS)-Amino-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one (1.3 g, 5.17 mmole), Boc-L-Phenylalanine (1.37 g, 5.17 mmole), HBT (0.70 g, 5.17 mmole), and EDC (0.99 g, 5.17 mmole) were combined in DMF (30 ml) and stirred at room temperature. The pH of the mixture was adjusted to 9.5 with triethylamine. After 1/2 hour, the DMF was removed in vacuo and the residue treated with 10% citric acid (10 ml), neutralized with NaCO3 and extracted with CH2Cl2 (3×15 ml). The combined organic layers were washed with water, dried over Na2CO3 filtered, and evaporated to dryness in vacuo. The residue was chromatographed on silica gel (90/3/0.3/0.3 CH2Cl2 /MeOH/H2 /HOAc) and the combined product fractions evaporated to dryness in vacuo. The residue was dissolved in CH2Cl2 (10 ml), washed with saturated Na2CO3 solution (2 ml), dried over Na2SO4, filtered and evaporated to dryness. The residue was treated with Et2O and evaporated five times to give the title compound as a mixture of diastereomers (m.p. 143°-153° C.).

reactant | 3-(RS)-Amino-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one | 5.17 mmole, 1.3 g | NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C15H13N3O
reactant | Boc-L-Phenylalanine | 5.17 mmole, 1.37 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | EDC | 5.17 mmole, 0.99 g
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3(RS)-(2(S)-tert-Butoxycarbonylamino-3-phenylpropanoyl-amino)-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one | C(C)(C)(C)OC(=O)N[C@H](C(=O)NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O)CC2=CC=CC=C2 | C29H30N4O4
